US07135502B1
N-[3-(4-(1-piperidinyl)piperidinylcarbonyloxy)-9,10,11-trimethoxy-6,7-dihydro-5H-dibenzo[a,c]cyclohepten-5-yl]acetamide
A solution of N-acetyl-colchinol (300 mg, 0.84 mmol), (J. Cech F. Santacy Collect. Czech Comm 1949, 4, 532–539), in pyridine (5 ml) was treated with 4-piperidinopiperidine carbamoyl chloride (346 mg, 1.5 mmol), (K. H. Henegar et al. J. Org. Chem., 1997, 62, 6588–6597) and the solution heated at reflux for 1 hour. The cooled mixture was filtered and the filtrate concentrated under reduced pressure. The residue was purified on silica gel eluting with methanol to give the title compound (180 mg) as a white solid.

reactant | N-acetyl-colchinol | 0.84 mmol, 300 mg | CC(=O)N[C@H]1CCC2=CC(=C(C(=C2C3=C1C=C(C=C3)O)OC)OC)OC | C20H23NO5
reactant | 4-piperidinopiperidine carbamoyl chloride | 1.5 mmol, 346 mg | C(N)(=O)Cl.N1(CCCCC1)C1CCNCC1
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | N-[3-(4-(1-piperidinyl)piperidinylcarbonyloxy)-9,10,11-trimethoxy-6,7-dihydro-5H-dibenzo[a,c]cyclohepten-5-yl]acetamide | 180 mg | N1(CCCCC1)C1CCN(CC1)C(=O)OC=1C=CC2=C(C(CCC3=C2C(=C(C(=C3)OC)OC)OC)NC(C)=O)C1 | C31H41N3O6
